US04203991
In a similar operation, 3.63 grams (10 millimoles) of [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetic acid, 50 milliliters of benzyl alcohol and 150 milligrams of p-toluenesulfonic acid are mixed together and the resulting mixture heated at reflux temperature for about 6 hours to obtain a product in the reaction mixture. Thereafter, the reaction mixture subjected to reduced pressure to evaporate the alcohol and the residue is dissolved in benzene, the resulting solution washed with bicarbonate solution, dried and the solvent evaporated to obtain a benzyl [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetate product. The molecular weight of benzyl [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetate is 453.

reactant | [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetic acid | 10 millimoles, 3.63 grams | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)C(COCC(=O)O)=O | C22H25NO4
reactant | p-toluenesulfonic acid | 150 milligrams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzyl alcohol | 50 milliliters | C(C1=CC=CC=C1)O | C7H8O
product | benzyl [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)C(COCC(=O)OCC1=CC=CC=C1)=O | C29H31NO4
